US08859606B2
3-{1-[5-Carboxy-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid 81
The title compound was prepared from 1 3-{1-[5-Cyano-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid following the methods described in example 64, but replacing LiOH with NaOH and adding MeOH as co-solvent while heating in a microwave reactor at 140° C. in a microwave reactor for 30 min.

reactant | 3-{1-[5-Cyano-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid | C(#N)C=1C=CC(=C(CN2N=C(C=C2C)CCC(=O)O)C1)OCC(CC)CC | C21H27N3O3
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | CO | CH4O
product | 3-{1-[5-Carboxy-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid | C(=O)(O)C=1C=CC(=C(CN2N=C(C=C2C)CCC(=O)O)C1)OCC(CC)CC | C21H28N2O5
